US07989461B2
Suspended 6-methyl-N5-(3-(pyrimidin-4-yl)pyridin-2-yl)-N1-(3-(2-(trimethylsilyl)ethynyl)phenyl)isoquinoline-1,5-diamine (0.110 g, 0.220 mmol) in methanol (2.5 mL) and added potassium carbonate (0.0607 g, 0.439 mmol). Heated to 70° C. in a sealed tube for 90 minutes. The crude mixture was diluted with water and extracted with two portions of EtOAc. The combined organics were washed with brine, dried over Na2SO4 and concentrated. The resulting yellow solid was recrystallized from MeOH/Et2O and filtered to afford N1-(3-ethynylphenyl)-6-methyl-N5-(3-(pyrimidin-4-yl)pyridin-2-yl)isoquinoline-1,5-diamine. MS (M+H)+ 429.

reactant | 6-methyl-N5-(3-(pyrimidin-4-yl)pyridin-2-yl)-N1-(3-(2-(trimethylsilyl)ethynyl)phenyl)isoquinoline-1,5-diamine | 0.220 mmol, 0.110 g | CC1=C(C=2C=CN=C(C2C=C1)NC1=CC(=CC=C1)C#C[Si](C)(C)C)NC1=NC=CC=C1C1=NC=NC=C1 | C30H28N6Si
reactant | potassium carbonate | 0.439 mmol, 0.0607 g | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 2.5 mL | CO | CH4O
solvent | water | O | H2O
product | N1-(3-ethynylphenyl)-6-methyl-N5-(3-(pyrimidin-4-yl)pyridin-2-yl)isoquinoline-1,5-diamine | C(#C)C=1C=C(C=CC1)NC1=NC=CC=2C(=C(C=CC12)C)NC1=NC=CC=C1C1=NC=NC=C1 | C27H20N6
